US04436748
To 6.0 g of α-(2,3-dichloro-4-methoxyphenylthio)isovaleric acid in 27 ml of dry dichloromethane is added 5.5 ml of thionyl chloride. The reaction is heated under reflux for 1 hour and excess reagent is removed under aspirator pressure. The residue is diluted with 70 ml of dichloromethane and the resulting slurry is added over less than one minute to a slurry of 2.79 g of aluminum chloride in 8 ml of dichloromethane at -60°. The cooling bath is removed and the reaction allowed to warm to room temperature over one hour. Stirring is continued for an additional hour and reaction is quenched with 250 ml of water. The mixture is extracted with three 125 ml portions of ether and the combined ether extracts are washed with two 150 ml portions and one 60 ml portion of saturated sodium bicarbonate solution, water and brine and dried over anhydrous magnesium sulfate to give 2.54 g of oily 6,7-dichloro-5-methoxy-2-isopropylbenzo[b]thiophen-3(2H)-one.

reactant | α-(2,3-dichloro-4-methoxyphenylthio)isovaleric acid | 6.0 g | ClC1=C(C=CC(=C1Cl)OC)SC(C(=O)O)C(C)C | C12H14Cl2O3S
reactant | thionyl chloride | 5.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 27 ml | ClCCl | CH2Cl2
product | 6,7-dichloro-5-methoxy-2-isopropylbenzo[b]thiophen-3(2H)-one | 2.54 g | ClC=1C(=CC2=C(SC(C2=O)C(C)C)C1Cl)OC | C12H12Cl2O2S
